US04958026
500 mg of N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dimethylamine is heated under reflux for 3 hours with 40 ml of tetrahydrofuran and 500 mg of N,N'-carbonyldiimidazole. After concentration, the residue is combined with methanol and water. The mixture is again concentrated and dried over phosphorus pentoxide, thus obtaining 410 mg of 7-methoxy-4-[2-(N,N-dimethylamino)ethyl]-2,3-dihydro-2-benzimidazolone, mp 197°-199° C.

reactant | N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dimethylamine | 500 mg | NC1=C(C=CC(=C1N)OC)CCN(C)C | C11H19N3O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 7-methoxy-4-[2-(N,N-dimethylamino)ethyl]-2,3-dihydro-2-benzimidazolone | 410 mg | COC1=CC=C(C2=C1NC(N2)=O)CCN(C)C | C12H17N3O2
